US06548694B2
A solution of 27.6 g (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-5-ethoxy-2-fluoro-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester described in example 3.4 in 470 ml THF was cooled to 0° C. and treated with 50.9 ml 1M tetrabutylammonium fluoride solution in THF. The reaction mixture was stirred at 0° C. for 4 hrs. The crude product was isolated by extraction with EtOAc and purified by chromatography on silica gel (cyclohexane/EtOAc) to yield 12.89 g (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester as a yellow semisolid.

reactant | (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-5-ethoxy-2-fluoro-phenyl]-(4-cyano-phenylamino)-acetic acid ethyl ester | 27.6 g | C(C)OC(C(NC1=CC=C(C=C1)C#N)C1=C(C(=CC(=C1)OCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C35H37FN2O4Si
reactant | tetrabutylammonium fluoride | 1M, 50.9 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 470 ml | C1CCOC1 | C4H8O
product | (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester | 12.89 g | C(C)OC(C(C1=C(C(=CC(=C1)OCC)O)F)NC1=CC=C(C=C1)C#N)=O | C19H19FN2O4
